US07332510B2
2-Chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine is dissolved in dimethyl formamide. Potassium carbonate and 2-chloro-4-trifluoromethyl-pyrimidine are added and the reaction mixture is stirred at about 80° C. overnight. It is obtained 2-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-4-trifluoromethyl-pyrimidine.

reactant | 2-Chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-trifluoromethyl-pyrimidine | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 2-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-4-trifluoromethyl-pyrimidine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=NC=CC(=N1)C(F)(F)F)C | C16H9ClF3N5
